US05273999
Preparation of 2-[(6-Methoxy-6-oxohexyl)oxy]-6-[6-[[4-oxo-8-(3-phenylpropyl)-4H-1-benzopyran-7-yl]oxy]hexyl]benzenepropanoic Acid Methyl Ester
Using the procedure of example 1 with the modification that methanol was used in place of ethanol, 2-[6-[4-acetyl-3-hydroxy-2-(3-phenylpropyl)phenoxy]hexyl]-6-[(6-methoxy-6-oxohexyl)oxy]benzenepropanoic acid methyl ester from the preceding example was converted into the title compound, a pale-yellow oil purified by flash-chromatography on silica gel (eluting with 3:1 toluene-ethyl acetate), in 57.4% yield.

reactant | 2-[6-[4-acetyl-3-hydroxy-2-(3-phenylpropyl)phenoxy]hexyl]-6-[(6-methoxy-6-oxohexyl)oxy]benzenepropanoic acid methyl ester | COC(CCC1=C(C=CC=C1OCCCCCC(=O)OC)CCCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCCC1=CC=CC=C1)=O | C40H52O8
reactant | methanol | CO | CH4O
product | 2-[(6-Methoxy-6-oxohexyl)oxy]-6-[6-[[4-oxo-8-(3-phenylpropyl)-4H-1-benzopyran-7-yl]oxy]hexyl]benzenepropanoic Acid Methyl Ester | 57.4% yield | COC(CCC1=C(C=CC=C1CCCCCCOC1=C(C2=C(C(C=CO2)=O)C=C1)CCCC1=CC=CC=C1)OCCCCCC(=O)OC)=O | C41H50O8
